US07241769B2
(2-amino-6-fluoro-phenyl)-methanol
676.3 mg (17.8 mmol) lithium aluminium hydride are placed in 65 ml diethyl ether under an N2 atmosphere and cooled to 0° C. 2.01 g (11.9 mmol) methyl 2-amino-6-fluoro-benzoate, dissolved in 65 ml diethyl ether, are slowly added dropwise thereto and the mixture is stirred for 2 h at 0° C. Then the reaction mixture is combined dropwise at 0° C. with 100 ml dist. H2O. The aqueous phase is extracted twice with 100 ml diethyl ether. The combined organic phases are washed once with 100 ml of a saturated, aqueous NaCl solution, dried with MgSO4 and the solvent is eliminated in vacuo.

reactant | lithium aluminium hydride | 17.8 mmol, 676.3 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | methyl 2-amino-6-fluoro-benzoate | 11.9 mmol, 2.01 g | NC1=C(C(=O)OC)C(=CC=C1)F | C8H8FNO2
reactant | H2O | O | H2O
solvent | diethyl ether | 65 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 65 ml | C(C)OCC | C4H10O
product | (2-amino-6-fluoro-phenyl)-methanol | NC1=C(C(=CC=C1)F)CO | C7H8FNO
